US08314094B2
3) Synthesis of 6-bromo-1-(4-methoxybenzyl)-4-(trifluoromethyl)-4-vinyl-1,4-dihydro-2H-3,1-benzoxazin-2-one
To a stirred solution of 1-{5-bromo-2-[(4-methoxybenzyl)amino]phenyl}-2,2,2-trifluoroethanone (75.5 g, 0.195 mol) in THF (500 mL), vinyl magnesium bromide (1.0 M THF solution, 389 mL) was added dropwise at 0° C. over 1 hour. After the reaction solution was stirred at 0° C. for 3 hours, a saturated aqueous ammonium chloride solution (100 mL) was added thereto, and the solution was further stirred at room temperature for 10 minutes. The reaction solution was diluted with ethyl acetate and the organic layer was separated. The organic layer was washed with water and saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. The residue was dissolved in triethylamine (81.2 mL, 0.59 mol) and toluene (500 mL), and while stirring the resulting solution, triphosgene (57.9 g, 0.195 mol) was gradually added thereto at 0° C. After the reaction solution was stirred at 0° C. for 30 minutes, a saturated aqueous sodium hydrogen carbonate solution (100 mL) was added thereto, and the solution was further stirred at 0° C. for 10 minutes. The reaction solution was diluted with ethyl acetate and the organic layer was separated. The organic layer was washed with water and saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. The residue was suspended in hexane (50 mL) and the suspension was stirred overnight at room temperature. The resulting solid was collected by filtration and washed with hexane and then dried, whereby the objective compound (71.6 g, 83%) was obtained as a pale yellow solid.

reactant | 1-{5-bromo-2-[(4-methoxybenzyl)amino]phenyl}-2,2,2-trifluoroethanone | 0.195 mol, 75.5 g | BrC=1C=CC(=C(C1)C(C(F)(F)F)=O)NCC1=CC=C(C=C1)OC | C16H13BrF3NO2
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
reactant | triethylamine | 0.59 mol, 81.2 mL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 0.195 mol, 57.9 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | sodium hydrogen carbonate | 100 mL | C(O)([O-])=O.[Na+]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | vinyl magnesium bromide | 1.0 M, 389 mL | C(=C)[Mg]Br
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 6-bromo-1-(4-methoxybenzyl)-4-(trifluoromethyl)-4-vinyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 71.6 g, 83% | BrC=1C=CC2=C(C(OC(N2CC2=CC=C(C=C2)OC)=O)(C=C)C(F)(F)F)C1 | C19H15BrF3NO3
